US06307087B1
Synthesis of 4-hydroxybiphenyl
An oven dried resealable Schlenk tube was evacuated and backfilled with argon and charged with palladium acetate (2.2 mg, 0.01 mmol, 1.0 mol %), 2-(di-tert-butylphosphino)biphenyl (6.0 mg, 0.02 mmol, 2.0 mol %), phenylboronic acid (183 mg, 1.5 mmol), potassium fluoride (174 mg, 3.0 mmol), and 4-bromophenol (173 mg, 1.0 mmol). The tube was evacuated and backfilled with argon, and THF (1 mL) was added through a rubber septum. The tube was sealed with a teflon screwcap, and the reaction mixture was stirred at room temperature until the starting aryl bromide had been completely consumed as judged by GC analysis. The reaction mixture was then diluted with ether (30 mL), filtered through celite, and concentrated. The crude material was purified by flash chromatography on silica gel to afford 154 mg (91%) of the title compound.

reactant | phenylboronic acid | 1.5 mmol, 183 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium fluoride | 3.0 mmol, 174 mg | [F-].[K+]
reactant | 4-bromophenol | 1.0 mmol, 173 mg | BrC1=CC=C(C=C1)O | C6H5BrO
catalyst | palladium acetate | 0.01 mmol, 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 0.02 mmol, 6.0 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | 4-hydroxybiphenyl | 154 mg, 91% | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
